US04065491
8.6 g. of 37% formaline (= 0.1 moles of formaldehyde) are added to a stirred solution of 4.0 g. (0.1 moles) of sodium hydroxide and 7.5 g. (0.1 moles) of glycine in 40 ml. of water at 0° to 5° C. After 10 minutes of stirring 11 g. (0.1 moles) of dimethyl phosphite are added, and stirring is continued for 2 hours at 90° to 100° C. The reaction mixture is cooled, acidified with hydrochloric acid, and extracted to obtain dimethyl N-carboxymethyl-aminomethyl-phosphonate. The hygroscopic product melts at 73°-75° with decomposition.

reactant | formaline | 0.1 moles | C=O | CH2O
reactant | sodium hydroxide | 0.1 moles | [OH-].[Na+]
reactant | glycine | 0.1 moles | NCC(=O)O | C2H5NO2
reactant | dimethyl phosphite | 0.1 moles | P(OC)(OC)[O-]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | dimethyl N-carboxymethyl-aminomethyl-phosphonate | C(=O)(O)CNCP(OC)(OC)=O | C5H12NO5P
